US07494993B2
{5-[(2-Chloro-5-nitro-phenylamino)-methyl]-2-methylsulfanyl-pyrimidin-4-yl}-methyl-amine
15.85 g (5-Chloromethyl-2-methylsulfanyl-pyrimidin-4-yl)-methyl-amine hydrochloride, 1.979 g sodium iodide, and 34.49 mL N—N-diisopropylethylamine were solved in 150 ml acetonitrile and cooled to 0° C. 17.085 g 2-Chloro-5-nitro-phenylamine dissolved in 150 ml acetonitrile were added slowly under stirring. The reaction mixture was stirred at room temperature for 48 hrs, then the solvent was evaporated. The residue was solved in a mixture of water/acetic acid ethyl ester (1:1), stirred and the crystalline product was isolated by filtration and dried for 48 h under vacuum at 40° C. The two phases of the mother liquor were separated and the aqueous phase was extracted with dichloromethane. The organic phases were combined, dried over sodium sulfate, the solvent was evaporated and the residue was rubbed with diethyl ether. Both residues were combined and gave of the title product in 97% yield.

reactant | (5-Chloromethyl-2-methylsulfanyl-pyrimidin-4-yl)-methyl-amine hydrochloride | 15.85 g | Cl.ClCC=1C(=NC(=NC1)SC)NC
reactant | sodium iodide | 1.979 g | [I-].[Na+]
reactant | 2-Chloro-5-nitro-phenylamine | 17.085 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])N | C6H5ClN2O2
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | {5-[(2-Chloro-5-nitro-phenylamino)-methyl]-2-methylsulfanyl-pyrimidin-4-yl}-methyl-amine | 97% yield | ClC1=C(C=C(C=C1)[N+](=O)[O-])NCC=1C(=NC(=NC1)SC)NC | C13H14ClN5O2S
